US05571506
Step 6: Preparation of Methyl 5-Hydroxy-2-tert-butyldimethylsilyloxymethyl-4-methoxyhydrocinnamate
A mixture of methyl 5-acetoxy-2-tert-butyldimethylsilyloxymethyl-4-methoxyhydrocinnamate (4.64 g) and potassium carbonate (0.16 g) in anhydrous methanol (50 ml) is stirred at 0°-5° C. for about 18 hours, diluted with water, and the pH adjusted to 5 with dilute HCl. The mixture is extracted with ether and the ether solution is washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by HPLC, eluting with 20% ethyl acetate in hexanes to give the desired product.

reactant | methyl 5-acetoxy-2-tert-butyldimethylsilyloxymethyl-4-methoxyhydrocinnamate | 4.64 g | C(C)(=O)OC=1C(=CC(=C(CCC(=O)OC)C1)CO[Si](C)(C)C(C)(C)C)OC | C20H32O6Si
reactant | potassium carbonate | 0.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | water | O | H2O
product | Methyl 5-Hydroxy-2-tert-butyldimethylsilyloxymethyl-4-methoxyhydrocinnamate | OC=1C(=CC(=C(CCC(=O)OC)C1)CO[Si](C)(C)C(C)(C)C)OC | C18H30O5Si
